US07786165B2
[4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)phenyl]methanol
A mixture of 5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole (318 mg, 1.01 mmol), [4-(chloromethyl)phenyl]methanol (240 mg, 1.53 mmol), potassium carbonate (276 mg, 2.0 mmol) and N,N-dimethylformamide (10 mL) was stirred at 120° C. for 1 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated. The residue was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give the title compound (220 mg, yield 50%) as a yellow oil.

reactant | 5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole | 1.01 mmol, 318 mg | C1(=CC=CC=C1)CCC1=CC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C18H15F3N2
reactant | [4-(chloromethyl)phenyl]methanol | 1.53 mmol, 240 mg | ClCC1=CC=C(C=C1)CO | C8H9ClO
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)phenyl]methanol | 220 mg, yield 50% | C1(=CC=CC=C1)CCC1=CC(=NN1CC1=CC=C(C=C1)CO)C1=CC=C(C=C1)C(F)(F)F | C26H23F3N2O
